US06620829B2
3-Bromomethyl-3-isobutyl-propionic acid ethyl ester (4.6 g, 18.3 mmol) is warmed in a 170° C. oil bath under Ar. Triethyl phosphite (3.6 g, 22 mmol) is added dropwise over 2 hours. When addition is complete, the oil bath temperature is raised to 190° C. for 4 hours. The reaction mixture is cooled to room temperature, and the product is purified by MPLC in EtOAc to give 2.7 g (48% yield) of 3-(diethoxy-phosphorylmethyl)-5-methyl-hexanoic acid ethyl ester. NMR (H1, 400 MHz, CDCl3) δ 0.8 (6H, d); δ 1.2 (5H, m); δ 1.3 (6H, m); δ 1.6 (1H, m); δ 1.7 (1H, d); δ 1.8 (1H, d); δ 2.3 (2H, m); δ 2.5 (1H, dd); δ 4.1 (6H, m).

reactant | 3-Bromomethyl-3-isobutyl-propionic acid ethyl ester | 18.3 mmol, 4.6 g | C(C)OC(CC(CC(C)C)CBr)=O | C10H19BrO2
reactant | Triethyl phosphite | 22 mmol, 3.6 g | P(OCC)(OCC)OCC | C6H15O3P
product | 3-(diethoxy-phosphorylmethyl)-5-methyl-hexanoic acid ethyl ester | 2.7 g, 48% yield | C(C)OC(CC(CC(C)C)CP(=O)(OCC)OCC)=O | C14H29O5P
